US08053574B2
Step 2: 2-{5-Bromo-2-[(Z)-toluene-4-sulfonylimino]-2H-pyridin-1-yl}-acetamide
N-[5-Bromo-1H-pyridin-(2Z)-ylidene]-4-methyl-benzenesulfonamide (80 g, 244.5 mmol) is suspended in anhydrous DMF (350 ml). Hunigs base (46.8 ml, 268.9 mmol) is added followed by 2-bromoacetamide (37.12 g, 268.9 mmol) and the mixture is stirred at room temperature for 72 hours. The reaction is poured into water (1000 ml) and the mixture is stirred for 1 hour. The product is collected by filtration, washed with more water (300 ml) and dried in a vacuum oven at 50° C. to give the title compound.

reactant | N-[5-Bromo-1H-pyridin-(2Z)-ylidene]-4-methyl-benzenesulfonamide | 244.5 mmol, 80 g | BrC=1C=C/C(/NC1)=N/S(=O)(=O)C1=CC=C(C=C1)C | C12H11BrN2O2S
reactant | Hunigs base | 268.9 mmol, 46.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromoacetamide | 268.9 mmol, 37.12 g | BrCC(=O)N | C2H4BrNO
reactant | water | 1000 ml | O | H2O
solvent | DMF | 350 ml | CN(C)C=O | C3H7NO
product | 2-{5-Bromo-2-[(Z)-toluene-4-sulfonylimino]-2H-pyridin-1-yl}-acetamide | BrC=1C=C/C(/N(C1)CC(=O)N)=N/S(=O)(=O)C1=CC=C(C=C1)C | C14H14BrN3O3S
